US04197296
11α-N,N-Dimethylamino-2β-ethoxy-5α-androstan-3α-ol
A solution of 11α-N,N-dimethylamino-2β-ethoxy-5α-androst-16-en-3α-ol (181 mg) in ethyl acetate (20 ml) containing 10% palladium on charcoal (180 mg) was stirred at room temperature under hydrogen. The catalyst was removed by filtration through Kieselguhr and the solvent was evaporated in vacuo. Purification of the residue by preparative thin layer chromatography over silica (ethyl acetate:petroleum ether 1:1) and crystallization from aqueous methanol yielded the title compound (83 mg), m.p. 54°-59°, [α]D -16.7°.

reactant | 11α-N,N-dimethylamino-2β-ethoxy-5α-androst-16-en-3α-ol | 181 mg | CN(C)[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC=C[C@@]2(C)C1)O)OCC)C | C23H39NO2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 180 mg | [Pd] | Pd
product | 11α-N,N-Dimethylamino-2β-ethoxy-5α-androstan-3α-ol | 83 mg | CN(C)[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CCC[C@@]2(C)C1)O)OCC)C | C23H41NO2
